US07781451B2
A solution of the title B compound, [4-(2-oxo-propylsulfonyl)-phenyl]-acetic acid ethyl ester (8 g, 0.028 mol) in 5 mL of DMTP and 80 mL of THF is cooled to −78 g and then treated with 15 mL of LDA (2 M solution in THF/hexane, 0.030 mol). The reaction is maintained at −78° C. for 20 min and then treated with a solution of 5.91 g (0.028 mL) of cyclopentylmethyl iodide in a mixture of THF (10 mL) and DMTP (3 mL), and the reaction is maintained at −78° C. for 6 h and subsequently at RT for another 6 h. The reaction is quenched with saturated ammonium chloride solution (20 mL). The organic layer is separated and aqueous layer then extracted with ethyl acetate (2×50 mL). Both the organic layers are combined and then washed with water. The organic layer is dried over sodium sulfate, filtered and evaporated under vacuum to give a brown oil as a crude product which is purified by column chromatography over Silica gel (60-120 mesh) using 80/20—hexane/ethyl acetate as an eluent to give 3-cyclopentyl-2-[4-(2-oxo-propylsulfonyl)-phenyl]-propionic acid ethyl ester as a white solid.

reactant | [4-(2-oxo-propylsulfonyl)-phenyl]-acetic acid ethyl ester | 0.028 mol, 8 g | C(C)OC(CC1=CC=C(C=C1)S(=O)(=O)CC(C)=O)=O | C13H16O5S
reactant | LDA | 0.030 mol, 2 M, 15 mL | [Li+].CC(C)[N-]C(C)C
reactant | cyclopentylmethyl iodide | 0.028 mL, 5.91 g | C1(CCCC1)CI | C6H11I
solvent | DMTP | 5 mL | COC1=NN(C(=O)S1)CSP(=S)(OC)OC | C6H11N2O4PS3
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMTP | 3 mL | COC1=NN(C(=O)S1)CSP(=S)(OC)OC | C6H11N2O4PS3
product | 3-cyclopentyl-2-[4-(2-oxo-propylsulfonyl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)CC(C)=O)=O | C19H26O5S
